US06589970B2
Step 3: 2-Butyl-benzofuran-3-carboxylic acid [6-(1H-tetrazol-5-ylmethoxy)-5-p-tolyl-naphthalen-2-ylmethyl]-amide.
A mixture of 2-butyl-benzofuran-3-carboxylic acid (6-cyanomethoxy-5-p-tolyl-naphthalen-2-ylmethyl)-amide (182 mg, 0.36 mmol), prepared in the previous step, sodium azide (77.6 mg, 1.19 mmol) and ammonium chloride (102 mg, 1.90 mmol) in 10 mL of DMF was stirred under nitrogen at 100° C. for 21 h (overnight). If starting material remains additional sodium azide and ammonium chloride are added and the stirring continued at 100° C. until the reaction is complete. The reaction was diluted with water, made basic by the addition of 1 N NaOH and extracted multiple times with ethyl acetate. The ethyl acetate extracts were combined, acidified with 1 N HCl and then concentrated under reduced pressure. The solid present was collected by filtration and dried under reduced pressure to give the title compound (130 mg, 66%) as a white solid, mp 162-166° C.

reactant | 2-butyl-benzofuran-3-carboxylic acid (6-cyanomethoxy-5-p-tolyl-naphthalen-2-ylmethyl)-amide | 0.36 mmol, 182 mg | C(#N)COC=1C(=C2C=CC(=CC2=CC1)CNC(=O)C1=C(OC2=C1C=CC=C2)CCCC)C2=CC=C(C=C2)C | C33H30N2O3
reactant | sodium azide | 1.19 mmol, 77.6 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.90 mmol, 102 mg | [Cl-].[NH4+]
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-Butyl-benzofuran-3-carboxylic acid [6-(1H-tetrazol-5-ylmethoxy)-5-p-tolyl-naphthalen-2-ylmethyl]-amide | 130 mg, 66% | N1N=NN=C1COC=1C(=C2C=CC(=CC2=CC1)CNC(=O)C1=C(OC2=C1C=CC=C2)CCCC)C2=CC=C(C=C2)C | C33H31N5O3
